US07217723B2
(2S)-[2-(4-Fluorophenyl)-2-hydroxyethyl]methylcarbamic acid t-butyl ester
To a solution of (2S)-methoxyphenyl acetic acid (1S)-2-(t-butoxycarbonyl-methylamino)-1-(4-fluorophenyl)ethyl ester (the compound of Preparation Example 35) (3.6 g) in methanol (17 mL) was added potassium carbonate (1.8 g) on an ice bath. After stirring at room temperature for 30 minutes, the colorless solid that was generated by diluting with water was collected by filtration. After washing with water, and then drying by aeration, the title compound (2.35 g) was obtained as a colorless solid. The NMR data matched the racemic mixture described in Preparation Example 32.

reactant | (2S)-methoxyphenyl acetic acid (1S)-2-(t-butoxycarbonyl-methylamino)-1-(4-fluorophenyl)ethyl ester | C(C)(C)(C)OC(=O)N(C[C@H](C1=CC=C(C=C1)F)OC([C@H](C1=CC=CC=C1)OC)=O)C | C23H28FNO5
reactant | potassium carbonate | 1.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 17 mL | CO | CH4O
solvent | water | O | H2O
product | (2S)-[2-(4-Fluorophenyl)-2-hydroxyethyl]methylcarbamic acid t-butyl ester | 2.35 g | C(C)(C)(C)OC(N(C)C[C@@H](O)C1=CC=C(C=C1)F)=O | C14H20FNO3
